US06329338B1
(5) Synthesis of N-ethyl 3-benzyloxycarbonylamino-1-tosyloxypropane
N-Ethyl 3-benzyloxycarbonylamino-1-propanol (4.0 g) was dissolved in methylene chloride (20 ml), and to the resulting solution were added pyridine (1.8 ml) and tosyl chloride (3.9 g). The resultant mixture was stirred at room temperature for 2 days. Ethyl acetate and water were added to the reaction solution obtained. The organic layer so separated was washed with an aqueous potassium hydrogen sulfate solution and then with water and then dried over magnesium sulfate. The solvent was evaporated off from the solution, and the residue was purified by a silica gel chromatography, thus affording the titled compound (4.4 g; 69%).

reactant | N-Ethyl 3-benzyloxycarbonylamino-1-propanol | 4.0 g | C(C)N(CCCO)C(=O)OCC1=CC=CC=C1 | C13H19NO3
reactant | pyridine | 1.8 ml | N1=CC=CC=C1 | C5H5N
reactant | tosyl chloride | 3.9 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-ethyl 3-benzyloxycarbonylamino-1-tosyloxypropane | 4.4 g, 69% | C(C)N(CCCOS(=O)(=O)C1=CC=C(C)C=C1)C(=O)OCC1=CC=CC=C1 | C20H25NO5S
